2122-04-02 09:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   26 y/o f found down with bottle of excedrine pm next to her bed. She
   was lethargic. In ED HR 130 BP 175/60 97% NRB. Very dry mmm. Intubated
   for airway protection, given 5L NS. ECG with just tachycardia.
   7.0/43/646 HCO3 11. Started on NAC and HCO3 gtt.
   24 Hour Events:
   Treated for K of 6 overnight with Ca, HCO3.
 INVASIVE VENTILATION - START [**2122-4-2**] 12:00 AM
 EKG - At [**2122-4-2**] 12:26 AM
 EKG - At [**2122-4-2**] 04:21 AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2122-4-2**] 12:40 AM
   Insulin - Regular - [**2122-4-2**] 12:40 AM
   Other medications:
   quetiapine, duloxetine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-2**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 128 (114 - 128) bpm
   BP: 111/71(79) {97/53(63) - 136/91(102)} mmHg
   RR: 25 (19 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             1,899 mL
   PO:
             TF:
   IVF:
   1,899 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,500 mL
   Urine:
   1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 14 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.31/29/233/18/-10
   Ve: 12.6 L/min
   PaO2 / FiO2: 582
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Pupils dilated, L pupul more sluggishly reactive
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   265 K/uL
   243 mg/dL
   2.1 mg/dL
   18 mEq/L
   3.8 mEq/L
   21 mg/dL
   110 mEq/L
   146 mEq/L
   29.8 %
   12.6 K/uL
        [image002.jpg]
                             [**2122-4-1**]  11:20 PM
                             [**2122-4-1**]  11:51 PM
                             [**2122-4-2**]  03:00 AM
                             [**2122-4-2**]  03:59 AM
                             [**2122-4-2**]  05:56 AM
   WBC
   12.6
   Hct
   29.8
   Plt
   265
   Cr
   2.0
   2.1
   2.1
   TCO2
   13
   15
   Glucose
   183
   294
   243
   Other labs: PT / PTT / INR:16.4/28.8/1.5, ALT / AST:31/54, Alk Phos / T
   Bili:36/0.2, Amylase / Lipase:/48, Lactic Acid:4.9 mmol/L, Albumin:3.4
   g/dL, LDH:217 IU/L, Ca++:6.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 SUICIDALITY / SUICIDE ATTEMPT
   Plan:
   1. ingestion: Possible combination of tylenol, ibuprofen, benadryl,
   seroquel, duloxetine, unknown time of ingestion
   -cont. NAC
   -cont. HCO3 gtt
   -check daily ECGs
   -no osmolar gap
   -transplant aware
   -1:1 sitter
   2. Metabolic acidosis: Both gap and nongap, likely [**2-16**] ARF
   -recheck lactate
   -SSI
   3. resp: intubated for airway protection
   -turn off sedation, if still following commands condsider extubation
   4. ARF: Cont. IVF
   -follow CK
   -renal aware
   -stop renagel
   -follow iCa
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2122-4-2**] 12:19 AM
   20 Gauge - [**2122-4-2**] 12:20 AM
   18 Gauge - [**2122-4-2**] 12:21 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I saw and examined the patient, and was present with Dr. [**First Name (STitle) 2721**] for the
   key portions of the services provided. I agree with her note above, and
   would add the following: 26 year old female admitted with ingestion of
   Excedrin/Tylenol/NSAID
s/benadryl/duloxetine. Initial labs notable for
   Tylenol level of 178, renal failure, acidosis, coagulopathy.
   Pt extubated this morning, can converse but is intermittently
   delirious. Tremulous female, tachycardic, lungs: CTA bil, Abd +bs,
   soft, +old and new slashes on skin (from cutting attempts)
   Problem list:
   Tylenol toxicity/ingestion/suicide attempt
   Acute renal failure
   Acidosis
   On NAC with decreasing Tylenol levels. Continue monitoring, IV
   hydration, renal consult.
   Pt is critically ill. Time spent on pt: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2122-4-2**] 19:10 ------

2122-04-03 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated successfully yesterday. Still delirous. Tylenol down to 16.
 EKG - At [**2122-4-2**] 10:00 AM
 INVASIVE VENTILATION - STOP [**2122-4-2**] 11:45 AM
 EKG - At [**2122-4-2**] 03:31 PM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-4-3**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-3**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 112 (112 - 132) bpm
   BP: 121/76(86) {101/63(73) - 130/84(93)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  6,101 mL
                                                                  2,763 mL
   PO:
             TF:
   IVF:
                                                                  6,071 mL
                                                                  2,763 mL
   Blood products:
   Total out:
                                                                  3,085 mL
                                                                  1,250 mL
   Urine:
                                                                  3,085 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,016 mL
                                                                  1,513 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): X3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   208 K/uL
   95 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.8 mEq/L
   17 mg/dL
   113 mEq/L
   142 mEq/L
   26.6 %
   6.4 K/uL
        [image002.jpg]
                             [**2122-4-1**]  11:20 PM
                             [**2122-4-1**]  11:51 PM
                             [**2122-4-2**]  03:00 AM
                             [**2122-4-2**]  03:59 AM
                             [**2122-4-2**]  05:56 AM
                             [**2122-4-2**]  10:02 AM
                             [**2122-4-2**]  04:54 PM
                             [**2122-4-3**]  03:20 AM
   WBC
   12.6
   6.4
   Hct
   29.8
   26.6
   Plt
   265
   208
   Cr
   2.0
   2.1
   2.1
   1.9
   1.9
   1.4
   TCO2
   13
   15
   Glucose
   183
   294
   243
   140
   97
   95
   Other labs: PT / PTT / INR:17.4/32.5/1.6, CK / CKMB /
   Troponin-T:2179//, ALT / AST:42/80, Alk Phos / T Bili:38/0.3, Amylase /
   Lipase:/48, Lactic Acid:2.2 mmol/L, Albumin:3.4 g/dL, LDH:217 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 POISONING / OVERDOSE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 SUICIDALITY / SUICIDE ATTEMPT
   Plan:
   1. Tylenol OD: Tylenol level decreasing
   -check LFTs this evening
   -cont. NAC
   2. Metab acidosis: GAP closed
   -cont. NS at 200/h for elev CK
   3. ARF: [**Month (only) 51**] be [**2-16**] ibuprofen
   -follow hct
   -IVF
   4. Anemia: Follow hct
   -possible GI loss
   -guiac stools
   5. Psyche:
   -1:1 sitter
   -suicide precautions
   6. Sinus tach: check TSH
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   16 Gauge - [**2122-4-2**] 12:19 AM
   20 Gauge - [**2122-4-2**] 12:20 AM
   18 Gauge - [**2122-4-2**] 12:21 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined this pt, and was physically present with Dr. [**First Name (STitle) 2721**]
   for the key portions of services provided. I would add the following:
   26 yo female with multi-drug ingestion including Tylenol OD, initially
   with acute renal failure, acidosis, acute respiratory failure. She is
   less tremulous though still confused at times. Renal function has
   improved and Tylenol level has decreased to 16. Repeat hct this
   afternoon was 27, which is unchanged from this morning. Appears
   appropriate to go to floor, with continued NAC, 1:1 sitter.
   ------ Protected Section Addendum Entered By:[**Name (NI) 618**] [**Last Name (NamePattern1) **], MD
   on:[**2122-4-3**] 15:27 ------